US08445684B2
3-[[(S)-N-(tert-Butoxycarbonyl)-2-azetidinyl]methoxy]-5-[(1S,2S)-2-[(3-pyridyloxy)methyl]cyclopropyl]pyridine
To a solution of 5-[(1S,2S)-2-[(3-pyridyloxy)methyl]cyclopropyl]-3-pyridinol (92 mg, 0.38 mmol) in anhydrous DMF (5 mL) in a 25 mL round-bottom flask was added NaH (60% dispersion in mineral oil, 23 mg, 0.57 mmol, 1.5 equiv.). The flask was equipped with a condenser, and the atmosphere was exchanged with Ar (3 times). The suspension was heated to 100° C. (oil bath) and stirred for 1 h. After cooling to room temperature, 1-(tert-butoxycarbonyl)-2(S)-[(4-toluenesulfonyloxy)methyl]azetidine (195 mg, 0.57 mmol, 1.5 equiv.) in dry DMF (2 mL) and tetra-n-butylammonium iodide (14 mg, 0.04 mmol, 0.1 equiv.) were added. The resulting mixture was again protected with Ar and stirred at 100° C. overnight. After the reaction mixture was cooled to room temperature, saturated NH4Cl solution (15 mL) was added to quench excessive NaH. The product was extracted into EtOAc (3×15 mL). The combined organic phases were washed with brine (15 mL), dried over Na2SO4, and concentrated. The residue was purified by CC on SiO2 (10×1.0 cm, EtOAc) to give the crude product, which was further purified by preparative HPLC in two portions (Supelco Discovery C18, 250×21.2 mm, 5 μm particle size, UV detection at 270 nm, flow rate 12.5 mL/min, gradient from 20% to 100% CH3CN in water within 40 min, then 100% CH3CN for 20 min; tR 22.0-23.2 min) to give a yellowish oil (123 mg, 79%). 1H NMR (CDCl3, 500 MHz) δ 8.35 (s, 1H), 8.26 (d, 1H, J=3.8 Hz), 8.18 (s, 1H), 8.10 (s, 1H), 7.29-7.22 (m, 2H), 6.95 (s, 1H), 4.53 (d, 1H, J=4.6 Hz), 4.33 (s, br, 1H), 4.15 (dd, 1H, J=10.0, 2.4 Hz), 4.10 (dd, 1H, J=9.9, 6.6 Hz), 4.03 (dd, 1H, J=9.8, 6.8 Hz), 3.92 (t, 2H, J=7.6 Hz), 2.39-2.28 (m, 2H), 2.02-1.97 (m, 1H), 1.67 (dd, 1H, J=12.6, 5.8 Hz), 1.44 (s, 9H), 1.19-1.13 (m, 2H).

reactant | 5-[(1S,2S)-2-[(3-pyridyloxy)methyl]cyclopropyl]-3-pyridinol | 0.38 mmol, 92 mg | N1=CC(=CC=C1)OC[C@@H]1[C@H](C1)C=1C=C(C=NC1)O | C14H14N2O2
reactant | NaH | 0.57 mmol, 23 mg, 1.5 equiv. | [H-].[Na+]
reactant | 1-(tert-butoxycarbonyl)-2(S)-[(4-toluenesulfonyloxy)methyl]azetidine | 0.57 mmol, 195 mg, 1.5 equiv. | C(C)(C)(C)OC(=O)N1[C@@H](CC1)COS(=O)(=O)C1=CC=C(C=C1)C | C16H23NO5S
reactant | NH4Cl | 15 mL | [NH4+].[Cl-]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
catalyst | tetra-n-butylammonium iodide | 0.04 mmol, 14 mg, 0.1 equiv. | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 3-[[(S)-N-(tert-Butoxycarbonyl)-2-azetidinyl]methoxy]-5-[(1S,2S)-2-[(3-pyridyloxy)methyl]cyclopropyl]pyridine | 123 mg, 79% | C(C)(C)(C)OC(=O)N1[C@@H](CC1)COC=1C=NC=C(C1)[C@@H]1[C@H](C1)COC=1C=NC=CC1 | C23H29N3O4
